US03956297
A sampmle of 3,9-dimethyl-2-hydroxymethyl-9H-dibenzo[b,f]-imidazo[1,2-d] [1,4]diazepine is suspended in a chloroform/tetrahydrofuran mixture and treated with triethylamine. After cooling to -20° C. methanesulfonyl chloride is added with stirring at -20° C. The mixture is treated with 4-methylpiperazine and warmed gradually to room temperature. Work-up from an aqueous base followed by the usal purification techniques affords the product 3,9-dimethyl-2-(4-methyl-1-piperazinyl)methyl-9H-dibenz[b,f]-imidazo[1,2-d][1,4]diazepine as a yellow oil.

reactant | 3,9-dimethyl-2-hydroxymethyl-9H-dibenzo[b,f]-imidazo[1,2-d] [1,4]diazepine | CC1=C(N=C2N1C1=C(N(C3=C2C=CC=C3)C)C=CC=C1)CO | C18H17N3O
reactant | chloroform tetrahydrofuran | C(Cl)(Cl)Cl.O1CCCC1
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,9-dimethyl-2-(4-methyl-1-piperazinyl)methyl-9H-dibenz[b,f]-imidazo[1,2-d][1,4]diazepine | CC1=C(N=C2N1C1=C(N(C3=C2C=CC=C3)C)C=CC=C1)CN1CCN(CC1)C | C23H27N5
